US04673746
2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone (30.0 g) is refluxed 18 hours in 350 ml of pyridine containing 32.0 g of hydroxylamine hydrochloride. The solvent is removed in vacuo and the residue is distributed between ether and 5% HCl. Drying and concentration of the ether gives a crude product that is heated as a melt at 200° C. for 30 minutes in a nitrogen atmosphere. The melt is allowed to cool and the solid mass is triturated well with hexane to give E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone oxime, mp 167°-169° C.

reactant | 2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone | 30.0 g | FC1=C(C=CC=C1)C(C1=C(C(=C(C=C1)OC)C)O)=O | C15H13FO3
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 350 ml, 32.0 g | N1=CC=CC=C1 | C5H5N
product | E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone oxime | FC1=C(C=CC=C1)/C(/C1=C(C(=C(C=C1)OC)C)O)=N/O | C15H14FNO3
